* C:\Users\twsoc\ECE_455\ECE_455_Briain_Stimulator\Simulation\Current_Source_Simulation.asc
XU1 NC_01 NC_02 NC_03 NC_04 NC_05 LT1006
XU2 0 NC_06 N006 -30V +30V N002 NC_07 N005 LT1102
R1 N001 N005 10k
C1 N002 N001 0.05µ
V1 +30V 0 5
V2 -30V 0 -5
V3 Inpt_Freq 0 SINE(0 5 2000)
R2 N002 N006 10
R3 N006 0 10k
V4 Const 0 2
XU3 Const N001 +30V -30V N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU4 temp N004 V- V+ N003 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU5 N003 N008 V- V+ N007 level1 Avol=1Meg GBW=200000 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C2 N003 N004 50n
R4 N007 N004 10k
R5 N003 N008 10
R6 N008 0 1k
V5 V+ 0 30
V6 V- 0 -30
V7 DDS_Out 0 SINE(0 5 2000)
V8 temp 0 5
.tran 0 2.5m 0
.lib LTC.lib
.lib UniversalOpAmp1.lib
.backanno
.end
